US07786132B2
(ii) 3-(Dimethylamino)-2-phenyl-1-(thiophen-2-yl)prop-2-en-1-one
2-Phenyl-1-(thiophen-2-yl)ethanone (1 g, 4.94 mmol) was treated with dimethylformamide dimethylacetal (5 mL) and heated to 100° C. while stirring. After 4 h, the reaction was allowed to cool down to room temperature. The solid that precipitated out of the reaction mixture was collected by filtration and washed with a 1:1 mixture of diethyl ether and hexanes to afford a yellow crystalline solid (1 g). MS (M+H)+ 258.

reactant | 2-Phenyl-1-(thiophen-2-yl)ethanone | 4.94 mmol, 1 g | C1(=CC=CC=C1)CC(=O)C=1SC=CC1 | C12H10OS
reactant | dimethylformamide dimethylacetal | 5 mL | COC(N(C)C)OC | C5H13NO2
product | 3-(Dimethylamino)-2-phenyl-1-(thiophen-2-yl)prop-2-en-1-one | 1 g | CN(C=C(C(=O)C=1SC=CC1)C1=CC=CC=C1)C | C15H15NOS
